US09340549B2
A microwave vial was charged with (S)-3-(4-(2-fluoro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)phenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one (0.074 g, 0.152 mmol), 2-chloropyrimidine-4-carbonitrile (commercially available from Synthonix, Wake Forest, N.C.)(0.023 g, 0.167 mmol), sodium carbonate (0.048 g, 0.455 mmol), dioxane (2.0 mL), and water (0.400 mL). Dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II) DCM adduct (0.012 g, 0.015 mmol) was added, the system was purged with argon, and the tube was sealed. The mixture was then stirred at 100° C. in a microwave for 1 hour. The resulting reaction mixture was filtered through Celite® brand filter aid and the filtrate was concentrated to afford a brown solid. The resulting solid was purified using column chromatography on silica gel (RediSep 40 g column, gradient elution with 0-50% EtOAc-hexane) to afford (S)-2-(5-(4-(5,5-dimethyl-2-oxo-4-phenyloxazolidin-3-yl)phenyl)-6-fluoropyridin-3-yl)pyrimidine-4-carbonitrile (0.051 g, 0.110 mmol, 72.3% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.93 (s, 3H), 1.66 (s, 3H), 5.53 (s, 1H), 7.14-7.50 (m, 5H), 7.59-7.78 (m, 4H), 8.17 (d, J=4.99 Hz, 1H), 8.78 (dd, J=9.68, 2.35 Hz, 1H), 9.09 (dd, J=2.30, 0.93 Hz, 1H), 9.29 (d, J=4.89 Hz, 1H). m/z (ESI) 466 (M+H)+.

reactant | (S)-3-(4-(2-fluoro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)phenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one | 0.152 mmol, 0.074 g | FC1=NC=C(C=C1C1=CC=C(C=C1)N1C(OC([C@@H]1C1=CC=CC=C1)(C)C)=O)B1OC(C(O1)(C)C)(C)C | C28H30BFN2O4
reactant | 2-chloropyrimidine-4-carbonitrile | ClC1=NC=CC(=N1)C#N | C5H2ClN3
reactant | sodium carbonate | 0.455 mmol, 0.048 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
catalyst | Dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 0.015 mmol, 0.012 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 0.400 mL | O | H2O
product | (S)-2-(5-(4-(5,5-dimethyl-2-oxo-4-phenyloxazolidin-3-yl)phenyl)-6-fluoropyridin-3-yl)pyrimidine-4-carbonitrile | 0.110 mmol, 0.051 g, 72.3% yield | CC1([C@@H](N(C(O1)=O)C1=CC=C(C=C1)C=1C=C(C=NC1F)C1=NC=CC(=N1)C#N)C1=CC=CC=C1)C | C27H20FN5O2
